US09079866B2
4′-(2-Aminopyrimidin-5-yl)-3′-fluoro-N-(2-hydroxyethyl)-4-(trifluoromethyl)biphenyl-2-sulfonamide
The title compound was prepared in a manner similar to that described in Example 88 using 2-bromo-N-(2-hydroxyethyl)-5-(trifluoromethyl)benzene-sulfonamide and 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrimidin-2-amine. MS (ESI): mass calcd. for C19H16F4N4O3S, 456.09; m/z found, 457.0 [M+H]+. 1H NMR (500 MHz, CD3OD) δ 8.57-8.53 (d, J=1.4, 2H), 8.38-8.35 (m, 1H), 8.00-7.96 (dd, J=8.1, 1.5, 1H), 7.63-7.60 (d, J=8.0, 1H), 7.59-7.54 (m, 1H), 7.38-7.36 (dd, J=6.1, 1.6, 1H), 7.36-7.34 (m, 1H), 3.51-3.45 (t, J=5.9, 2H), 2.95-2.86 (t, J=5.9, 2H).

reactant | 2-bromo-N-(2-hydroxyethyl)-5-(trifluoromethyl)benzene-sulfonamide | BrC1=C(C=C(C=C1)C(F)(F)F)S(=O)(=O)NCCO | C9H9BrF3NO3S
reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrimidin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
product | 4′-(2-Aminopyrimidin-5-yl)-3′-fluoro-N-(2-hydroxyethyl)-4-(trifluoromethyl)biphenyl-2-sulfonamide | NC1=NC=C(C=N1)C1=C(C=C(C=C1)C=1C(=CC(=CC1)C(F)(F)F)S(=O)(=O)NCCO)F | C19H16F4N4O3S
